US06924284B2
A 100-mL round bottomed flask was charged with methyl 3-[3-(3-tert-butyloxycarbonylaminophenyl)-1,2,4-oxadiazol-5-yl]propionate (4.04 g, 11.6 mmol), lithium hydroxide (1.39 g, 58.2 mmol), methanol (15 mL), water (15 mL) and THF (15 mL). The resulting solution was then stirred for 2 h at room temperature. The solvents were then removed under reduced pressure and the residue dissolved into water (60 mL). The resulting solution was cooled to 0° C. and acidified to pH 5 by the addition of 2 N hydrochloric acid. The mixture was then extracted with ethyl acetate (4×50 mL) and the combined extracts dried over sodium sulfate. Filtration and concentration under reduced pressure afforded an 83% yield of 3-[3-(3-tert-butyloxycarbonylaminophenyl)-1,2,4-oxadiazol-5-yl]propionic acid as a white solid. m.p. 143-144° C.; 1H NMR (DMSO-d6) δ (ppm) 12.42 (bs, 1H), 9.60 (s, 1H), 8.24 (s, 1H), 7.57 (m, 2H), 7.42 (t, 1H,J=7.9 Hz), 3.26 (t, 2H,J=6.9 Hz), 2.84 (t, 2H,J=6.9 Hz), 1.49 (s, 9H); m/z=332 (M−H).

reactant | methyl 3-[3-(3-tert-butyloxycarbonylaminophenyl)-1,2,4-oxadiazol-5-yl]propionate | 11.6 mmol, 4.04 g | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)C1=NOC(=N1)CCC(=O)OC | C17H21N3O5
reactant | lithium hydroxide | 58.2 mmol, 1.39 g | [OH-].[Li+]
reactant | methanol | 15 mL | CO | CH4O
reactant | water | 15 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-[3-(3-tert-butyloxycarbonylaminophenyl)-1,2,4-oxadiazol-5-yl]propionic acid | 83% yield | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)C1=NOC(=N1)CCC(=O)O | C16H19N3O5
